* /home/dilip/esim-workspace/mixed_signal_based_buck_converter/mixed_signal_based_buck_converter.cir

.include NPN.lib
.include schottky.lib
q1 vin net-_q1-pad2_ net-_d1-pad2_ Q2N2222
l1  net-_d1-pad2_ vout 1
d1 gnd net-_d1-pad2_ 1N5819
c1  vout gnd 10n
r1  vout gnd 10k
v2 vin gnd  dc 25
* u6  vout plot_v1
* u4  vin plot_v1
v1  clk gnd pulse(0 5 0 1n 1n 2u 2u)
* u3  clk net-_u1-pad1_ adc_bridge_1
* u5  net-_u1-pad2_ net-_q1-pad2_ dac_bridge_1
* u2  clk plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ pwm
a1 [clk ] [net-_u1-pad1_ ] u3
a2 [net-_u1-pad2_ ] [net-_q1-pad2_ ] u5
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             pwm, NgSpice Name: pwm
.model u1 pwm(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.3e-03 3e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(vin)
plot v(clk)
.endc
.end
